US07488720B2
To a solution of (2R,3R,4R,5R)-4-acetyloxy-2-(acetyloxymethyl)-5-[6-(cyclopentylamino)-2-iodopurin-9-yl]oxolan-3-yl acetate (0.9 g, 1.53 mmol) in N,N-dimethylformamide (40 ml) was added tributyltin cyanide (0.58 g, 1.84 mmol) and tetrakis(triphenylphosphine)palladium (0.27 g, 0.23 mmol), and the mixture was stirred at 120° C. f overnight. Solvent was removed under reduced pressure, and the residue was dissolved in ethyl acetate and filtered through celite. The solvent was removed under reduced pressure, and the residue was chromatographed on silica gel, eluting with a mixture of ethanol/hexane 1:1, to provide (2R,3R,4R,5R)-4-acetyloxy-2-(acetyloxy-methyl)-5-[2-cyano-6-(cyclopentylamino)purin-9-yl]oxolan-3-yl acetate (0.65 g).

reactant | (2R,3R,4R,5R)-4-acetyloxy-2-(acetyloxymethyl)-5-[6-(cyclopentylamino)-2-iodopurin-9-yl]oxolan-3-yl acetate | 1.53 mmol, 0.9 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)NC1CCCC1)I)COC(C)=O | C21H26IN5O7
reactant | tributyltin cyanide | 1.84 mmol, 0.58 g | C(CCC)[Sn](CCCC)(CCCC)C#N
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.23 mmol, 0.27 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2R,3R,4R,5R)-4-acetyloxy-2-(acetyloxy-methyl)-5-[2-cyano-6-(cyclopentylamino)purin-9-yl]oxolan-3-yl acetate | 0.65 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)NC1CCCC1)C#N)COC(C)=O | C22H26N6O7
